US06303790B1
35 g (124 mMol) 6-(4-Methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-ylamine were dissolved in 273 ml ortho-formic acid trimethyl ester and 8 drops trifluoroacetic acid were added. The reaction mixture was refluxed for 3 hours then concentrated under reduced pressure and dried under high vacuum. The residue was dissolved in 100 ml tetrahydrofuran and added dropwise at 0° C. to a suspension of 9.4 g (248 mMol) lithium alimunium hydride in 300 ml tetrahydrofuran. The reaction mixture was stirred at room temperature for 1 hour, cooled again to 0° C. and its pH was brought to 1 by careful addition of aqueous HCl 28%. After 5 minutes, the pH was raised to 10 by addition of aqueous NaOH 28%, the reaction mixture was filtered on Hyflo and concentrated under reduced pressure. The residue was chromatographed (eluent: dichloromethane/methanol 9:1) to yield 23.6 g (64%) methyl-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-amine as a brown oil.

reactant | 6-(4-Methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-ylamine | 124 mMol, 35 g | CN1CCN(CC1)C1=CC(=C(C=N1)N)C1=C(C=CC=C1)C | C17H22N4
reactant | lithium | 248 mMol, 9.4 g | [Li] | Li
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | ortho-formic acid trimethyl ester | 273 ml | COC(OC)OC | C4H10O3
catalyst | trifluoroacetic acid | 8 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | methyl-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-amine | 23.6 g, 64% | CNC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCN(CC1)C | C18H24N4
